* The Mordor Screamer - High-Gain Distortion Pedal
* Forged in the fires of Mount Doom (and melange)
*
* Circuit: Hard-clipping shunt diode clipper with tone control
* Anti-parallel 1N4148 diodes clip the signal to ~±0.5V
*
* This implementation: Copyright (c) 2026 Melange Contributors
* License: MIT OR Apache-2.0

* Diode model - standard silicon signal diode
.model D1N4148 D(IS=2.52e-9 RS=0.568 N=1.906)

* Input coupling cap (DC blocking, passes audio)
C1 in n1 0.1u

* Pulldown resistor (prevents floating node when no input)
R1 n1 0 1meg

* Drive resistor - sets clipping hardness
* Lower value = harder clipping, more distortion
R2 n1 n2 4.7k

* Anti-parallel diode clipper (the distortion!)
* Clips signal to approximately ±0.5V
D1 n2 0 D1N4148
D2 0 n2 D1N4148

* Anti-aliasing / stability capacitor
C2 n2 0 100p

* Tone control - simple lowpass
C3 n2 n3 0.022u
R3 n3 0 10k

* Output buffer
R4 n2 out 100
C4 out 0 0.1u

.END
